US07671043B2
4C. 6-Hydroxymethyl-nicotinic acid
A solution of 6-hydroxymethyl-nicotinic acid methyl ester (0.400 g, 2.38 mmol) in 1.0 N NaOH (25.0 mL) and methanol (10.0 mL) was heated at 80° C. for 1 hour. The reaction mixture was cooled to room temperature and the pH was adjusted to 7.0 with 1.0 N HCl. The reaction mixture was concentrated in vacuo and the resulting salt was slurried in DMF and filtered to provide the title compound.

reactant | 6-hydroxymethyl-nicotinic acid methyl ester | 2.38 mmol, 0.400 g | COC(C1=CN=C(C=C1)CO)=O | C8H9NO3
reactant | HCl | 1.0 N | Cl | ClH
solvent | NaOH | 1.0 N, 25.0 mL | [OH-].[Na+]
solvent | methanol | 10.0 mL | CO | CH4O
product | 6-Hydroxymethyl-nicotinic acid | OCC1=NC=C(C(=O)O)C=C1 | C7H7NO3
